US05817850
1,1'-Bis[2,4,8,10-tetrakis(tert-butyl)-dibenzo[d,f][1,3,2]dioxaphosphepin-6-yl]ferrocene
To a solution of 9.5 g (50 mmol) of ferrocene in 250 mL of hexane is added dropwise 67 mL of a 1.6M solution of n-butyl lithium at ambient temperature. The reaction mixture is stirred for 20 minutes and then to the resultant red suspension is added 12.0 g (103 mmol) of N,N,N',N'-tetramethylethylenediamine. A slight exotherm of 10° C. is observed. The reaction mixture is then heated at reflux for two hours during which time an orange suspension forms. The reaction mixture is cooled to room temperature and 100 mL of tetrahydrofuran is then added. The reaction mixture is cooled to -40° C. Then to the cooled reaction mixture is added dropwise a solution of 51.8 g (109 mmol) of 2,4,8,10-tetrakis(tert-butyl)-6-chloro-dibenzo[d,f][1,3,2]dioxaphosphepin in 100 mL of tetrahydrofuran. The reaction mixture is allowed to warm to ambient temperature after the addition is complete. The reaction mixture is then heated at reflux for six hours. After cooling, the mixture is filtered and the filtrate is concentrated under reduced pressure. The residue formed is triturate with 150 mL of hexane. The resultant solid is recrystallized from acetonitrile/tetrahydrofuran mixture to give 25 g (47% yield) of a light brown solid.

reactant | ferrocene | 50 mmol, 9.5 g | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
reactant | n-butyl lithium | C(CCC)[Li]
reactant | N,N,N',N'-tetramethylethylenediamine | 103 mmol, 12.0 g | CN(CCN(C)C)C | C6H16N2
reactant | 2,4,8,10-tetrakis(tert-butyl)-6-chloro-dibenzo[d,f][1,3,2]dioxaphosphepin | 109 mmol, 51.8 g | C(C)(C)(C)C1=CC2=C(OP(OC3=C2C=C(C=C3C(C)(C)C)C(C)(C)C)Cl)C(=C1)C(C)(C)C | C28H40ClO2P
solvent | hexane | 250 mL | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 1,1'-Bis[2,4,8,10-tetrakis(tert-butyl)-dibenzo[d,f][1,3,2]dioxaphosphepin-6-yl]ferrocene | 25 g, 47% yield | C(C)(C)(C)C1=CC2=C(OP(OC3=C2C=C(C=C3C(C)(C)C)C(C)(C)C)[C-]3C=CC=C3)C(=C1)C(C)(C)C.[C-]1(C=CC=C1)P1OC3=C(C2=C(O1)C(=CC(=C2)C(C)(C)C)C(C)(C)C)C=C(C=C3C(C)(C)C)C(C)(C)C.[Fe+2] | InChI=1S/2C33H44O2P.Fe/c2*1-30(2,3)21-17-24-25-18-22(31(4,5)6)20-27(33(10,11)12)29(25)35-36(23-15-13-14-16-23)34-28(24)26(19-21)32(7,8)9;/h2*13-20H,1-12H3;/q2*-1;+2
